US05905088
(b) Synthesis of methyl [5-(3,5,5,8,8-pentamethyl-2,3,5,6,7,8-hexahydronaphtho[2,3-b]furan-3-yl)thiophen-3-yl]propynoate
A 2.5 M solution of butyllithium in hexane (0.82 ml, 2.45 mmol) was added to a solution of 3-[4-(2,2-dibromovinyl)thiophen-2-yl]-3,5,5,8,8-pentamethyl-2,3,5,6,7,8-hexahydronaphtho[2,3-b]furan (478 mg, 0.94 mmol) in THF (5 ml) at -78° C. The stirring was continued for 1 h at -78° C. and then methyl chloroformate (80 μl) was added. The mixture was stirred at room temperature for 1 h, treated with a saturated ammonium chloride solution and extracted with ethyl ether. After washing with water, the organic phase was dried over magnesium sulfate and concentrated in a rotary evaporator under vacuum. The desired compound was purified by column chromatography.

reactant | butyllithium | C(CCC)[Li]
reactant | hexane | 2.45 mmol, 0.82 ml | CCCCCC | C6H14
reactant | 3-[4-(2,2-dibromovinyl)thiophen-2-yl]-3,5,5,8,8-pentamethyl-2,3,5,6,7,8-hexahydronaphtho[2,3-b]furan | 0.94 mmol, 478 mg | BrC(=CC=1C=C(SC1)C1(C2=C(OC1)C=C1C(CCC(C1=C2)(C)C)(C)C)C)Br | C23H26Br2OS
reactant | methyl chloroformate | 80 μl | ClC(=O)OC | C2H3ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | methyl [5-(3,5,5,8,8-pentamethyl-2,3,5,6,7,8-hexahydronaphtho[2,3-b]furan-3-yl)thiophen-3-yl]propynoate | CC1(C2=C(OC1)C=C1C(CCC(C1=C2)(C)C)(C)C)C2=CC(=CS2)C#CC(=O)OC | C25H28O3S
